US08492405B2
To a solution of 2-(4-bromo-5-methyl-2-thienyl)-1,3-dioxolane (5.0 g) in tetrahydrofuran (50 mL) was added dropwise n-butyl lithium (1.6M hexane solution, 12.5 mL) at −78° C. and, after the dropwise addition, the mixture was stirred for 1 hr. Carbon dioxide was blown into the reaction solution for 30 min. The reaction mixture was warmed to room temperature, saturated aqueous sodium hydrogen carbonate solution was added, and the mixture was extracted with ethyl acetate. The aqueous layer was acidified with 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained residue was dissolved in tetrahydrofuran (50 mL), 1N hydrochloric acid (50 mL) was added, and the mixture was stirred at 50° C. for 1 hr. The reaction mixture was concentrated and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography to give 5-formyl-2-methylthiophene-3-carboxylic acid (1.2 g, yield 36%) as yellow crystals from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio). melting point 173° C.

reactant | 2-(4-bromo-5-methyl-2-thienyl)-1,3-dioxolane | 5.0 g | BrC=1C=C(SC1C)C1OCCO1 | C8H9BrO2S
reactant | n-butyl lithium | 1.6M, 12.5 mL | C(CCC)[Li]
reactant | Carbon dioxide | C(=O)=O | CO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 5-formyl-2-methylthiophene-3-carboxylic acid | 1.2 g, yield 36% | C(=O)C1=CC(=C(S1)C)C(=O)O | C7H6O3S
